US07585885B2
(S)-2-sec-Butylamino-6-(2H-tetrazol-5-yl)-isonicotinic acid
Treat a solution of (S)-2-sec-butylamino-6-(2H-tetrazol-5-yl)-isonicotinic acid methyl ester (250 mg, 0.91 mmol) in methanol (4 mL)at room temperature with 2 N NaOH (1.36 mL, 2.72 mmol). Stir overnight, acidify with 1 N HCl to about pH=3, concentrate and lyophilize to give the title compound.

reactant | (S)-2-sec-butylamino-6-(2H-tetrazol-5-yl)-isonicotinic acid methyl ester | 0.91 mmol, 250 mg | COC(C1=CC(=NC(=C1)C=1N=NNN1)N[C@@H](C)CC)=O | C12H16N6O2
reactant | NaOH | 2.72 mmol, 2 N, 1.36 mL | [OH-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | methanol | 4 mL | CO | CH4O
product | (S)-2-sec-Butylamino-6-(2H-tetrazol-5-yl)-isonicotinic acid | [C@H](C)(CC)NC=1C=C(C(=O)O)C=C(N1)C=1N=NNN1 | C11H14N6O2
